US06849639B2
Step B: Sodium 3-((5-oxo-1-{3-((N-phenylcarbamoyl)amino)phenyl}pyrrolidin-3-yl)carbonylamino)-3-(3-pyridyl)propanoate
A solution of ethyl 3-((5-oxo-1-{3-((N-phenylcarbamoyl)amino)phenyl}pyrrolidin-3-yl)carbonylamino)-3-(3-pyridyl)propanoate (75 mg, 0.14 mmol, 1.0 eq), THF (1.0 mL), and 1.0 N NaOH (0.15 mL, 1.1 eq) was stirred at room temperature overnight. The solvent was removed on rotary evaporator. The title compound was obtained as an off-white solid. 1H NMR (MeOH-d4, 400 MHz): δ 2.77 (m, 4), 3.30 (m, 1, overlap with solvent), 4.08 (m, 2), 5.35 (m, 1), 7.01(m, 2), 7.28 (m, 4), 7.41(m, 3), 7.66 (m, 1), 7.86 (m, 1), 8.39 (m, 1), 8.57 (m, 1). MS (ES+): 488 (M+H)+; (ES−): 486 (M−H)−.

reactant | ethyl 3-((5-oxo-1-{3-((N-phenylcarbamoyl)amino)phenyl}pyrrolidin-3-yl)carbonylamino)-3-(3-pyridyl)propanoate | 0.14 mmol, 75 mg, 1.0 eq | O=C1CC(CN1C1=CC(=CC=C1)NC(NC1=CC=CC=C1)=O)C(=O)NC(CC(=O)OCC)C=1C=NC=CC1 | C28H29N5O5
reactant | NaOH | 1.0 N, 0.15 mL, 1.1 eq | [OH-].[Na+]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | Sodium 3-((5-oxo-1-{3-((N-phenylcarbamoyl)amino)phenyl}pyrrolidin-3-yl)carbonylamino)-3-(3-pyridyl)propanoate | O=C1CC(CN1C1=CC(=CC=C1)NC(NC1=CC=CC=C1)=O)C(=O)NC(CC(=O)[O-])C=1C=NC=CC1.[Na+] | InChI=1S/C26H25N5O5.Na/c32-23-12-18(25(35)30-22(14-24(33)34)17-6-5-11-27-15-17)16-31(23)21-10-4-9-20(13-21)29-26(36)28-19-7-2-1-3-8-19;/h1-11,13,15,18,22H,12,14,16H2,(H,30,35)(H,33,34)(H2,28,29,36);/q;+1/p-1
